US07951794B2
Ethyl 2-mercaptoacetate (5.92 g, 49.3 mmol) is added to a freshly prepared solution of sodium (1.2 g, 50 mmol) in ethanol (50 mL). To this solution 3-chloro-2-phenyl-but-2-enal (8.90 g, 49.3 mmol) is added and the mixture is stirred at rt for 16 h, then at 70° C. for 2 h. A 2 N aq. solution of LiOH (30 mL) is added and stirring is continued at 70° C. for 2 h. The ethanol is removed in vacuo, the remaining mixture is diluted with water and extracted with DCM. The aq. phase is acidified with aq. HCl and extracted with diethyl ether. The solvent of the ether phase is evaporated, the residue is suspended in acetonitrile, filtered and washed with additional acetonitrile and dried to give 5-methyl-4-phenyl-thiophene-2-carboxylic acid (4.45 g) as a yellow powder, LC-MS: tR=0.92 min, [M+1+MeCN]+=260.13; 1H NMR (CDCl3): δ 7.84 (s, 1H), 7.46-7.33 (m, 5H), 2.55 (s, 3H).

reactant | Ethyl 2-mercaptoacetate | 49.3 mmol, 5.92 g | SCC(=O)OCC | C4H8O2S
reactant | sodium | 50 mmol, 1.2 g | [Na] | Na
reactant | 3-chloro-2-phenyl-but-2-enal | 49.3 mmol, 8.90 g | ClC(=C(C=O)C1=CC=CC=C1)C | C10H9ClO
reactant | LiOH | 30 mL | [Li+].[OH-]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-methyl-4-phenyl-thiophene-2-carboxylic acid | 4.45 g | CC1=C(C=C(S1)C(=O)O)C1=CC=CC=C1 | C12H10O2S
